US04975438
As in Example 134, a solution of (2E,4E)-5-(3-methoxyphenyl)-5-phenyl-2,4-pentadienoic acid 4-nitrophenyl ester (2.96 g) and 3-pyridinebutanamine (1.107 g) in tetrahydrofuran (15 mL) was stirred for 1 hour at room temperature. After the usual work up, the crude amide was purified by HPLC (ethyl acetate) and then crystallized from ethyl acetate-hexane to provide 2.5 g of (2E,4E)-5-(methoxyphenyl)-5-phenyl-N-[4-(3-pyridinyl)butyl]-2,4-pentadienamide mp 66°-68° C. Anal. Calculated for C28H28N2O2 : C, 78.61; H, 6.84; N. 6.79 Found: C, 78.42; H, 6.88; N, 6.79.

reactant | (2E,4E)-5-(3-methoxyphenyl)-5-phenyl-2,4-pentadienoic acid 4-nitrophenyl ester | 2.96 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C=C(/C1=CC=CC=C1)\C1=CC(=CC=C1)OC)=O | C24H19NO5
reactant | 3-pyridinebutanamine | 1.107 g | N1=CC(=CC=C1)CCCCN | C9H14N2
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | (2E,4E)-5-(methoxyphenyl)-5-phenyl-N-[4-(3-pyridinyl)butyl]-2,4-pentadienamide | 2.5 g | COC1=C(C=CC=C1)/C(=C/C=C/C(=O)NCCCCC=1C=NC=CC1)/C1=CC=CC=C1 | C27H28N2O2
